US09193707B2
6. Synthesis of 2-(benzyloxy)-N,N-dimethyl-3-[(Z)-2-nitroethenyl]aniline
Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed 2-(benzyloxy)-3-(dimethylamino)benzaldehyde (5 g, 19.58 mmol, 1.00 equiv), acetic acid (40 mL), acetic acid amine (750 mg, 9.73 mmol, 0.50 equiv) and nitromethane (11.96 g, 195.94 mmol, 10.01 equiv). The resulting solution was stirred overnight at 105° C. in an oil bath. The resulting solution was diluted with 200 mL of ethyl acetate. The mixture was washed with NaOH (5 mol/L) until pH=7. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:20). This resulted in 3.5 g (60%) of 2-(benzyloxy)-N,N-dimethyl-3-[(Z)-2-nitroethenyl]aniline as a dark red solid. MS (ESI) m/z 299 ([M+H]+).

reactant | 2-(benzyloxy)-3-(dimethylamino)benzaldehyde | 19.58 mmol, 5 g, 1.00 equiv | C(C1=CC=CC=C1)OC1=C(C=O)C=CC=C1N(C)C | C16H17NO2
reactant | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid amine | 9.73 mmol, 750 mg, 0.50 equiv | CC(=O)O.N
reactant | nitromethane | 195.94 mmol, 11.96 g, 10.01 equiv | [N+](=O)([O-])C | CH3NO2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-(benzyloxy)-N,N-dimethyl-3-[(Z)-2-nitroethenyl]aniline | C(C1=CC=CC=C1)OC1=C(N(C)C)C=CC=C1\C=C/[N+](=O)[O-] | C17H18N2O3
